US09428483B2
Synthesis of (1S,2S,3S,5R,6S)-2-amino-3-fluoro-6-(((pivaloyloxy)methoxy)carbonyl)bicyclo[3.1.0]hexane-2-carboxylic acid (A-7)
(1S,2S,3S,5R,6S)-3′-((Allyloxy)carbonyl)-3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-6-carboxylic acid (A-1-2, 400 mg) and chloromethyl pivalate (193 mg) were treated in the same manner as in Example A-1 (3) and (4) to give the title compound (A-7, 60 mg) as a colorless solid.

reactant | (1S,2S,3S,5R,6S)-3′-((Allyloxy)carbonyl)-3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-6-carboxylic acid | 400 mg | C(C=C)OC(=O)N1COC([C@]12[C@@H]1[C@H]([C@@H]1C[C@@H]2F)C(=O)O)=O | C13H14FNO6
reactant | chloromethyl pivalate | 193 mg | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
product | (1S,2S,3S,5R,6S)-2-amino-3-fluoro-6-(((pivaloyloxy)methoxy)carbonyl)bicyclo[3.1.0]hexane-2-carboxylic acid | 60 mg | N[C@@]1([C@@H]2[C@H]([C@@H]2C[C@@H]1F)C(=O)OCOC(C(C)(C)C)=O)C(=O)O | C14H20FNO6
